US07612059B2
2 (S)-hydroxy-3 (R)-[2 (R/S)-pyridin-2-yl-pyrrolidine-1-carbonyl)-heptanoic acid hydroxamide
The title compound is prepared from 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid B-5 and commercially available 2-pyrrolidin-2-yl-pyridine A-5 according to General Procedure B.

reactant | 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | CC1(OC(C(O1)=O)C(C(=O)O)CCCC)C | C11H18O5
reactant | 2-pyrrolidin-2-yl-pyridine | N1C(CCC1)C1=NC=CC=C1 | C9H12N2
product | (S)-hydroxy-3 (R)-[2 (R/S)-pyridin-2-yl-pyrrolidine-1-carbonyl)-heptanoic acid | O[C@H](C(=O)O)[C@@H](CCCC)C(=O)N1C(CCC1)C1=NC=CC=C1 | C17H24N2O4
